US07001897B2
To a solution of 1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]-3-hydroxyazetidine (582 mg, 2.01 mmol) (obtained as described in Reference Example 64(2)) in methylene chloride (30 ml) were added methanesulfonyl chloride (0.19 ml, 2.41 mmol), triethylamine (0.34 ml, 2.41 mmol) and pyridine (5.8 ml) in an ice bath and the mixture was stirred for 1 hour. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate as the eluant to afford 1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine (739 mg, yield 100%) as a pale yellow solid.

reactant | 1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]-3-hydroxyazetidine | 2.01 mmol, 582 mg | C(C1=CC=CC=C1)(=O)NCC=1N=C(SC1)N1CC(C1)O | C14H15N3O2S
reactant | methanesulfonyl chloride | 2.41 mmol, 0.19 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 2.41 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 5.8 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(benzoylaminomethyl)-1,3-thiazol-2-yl]-3-methanesulfonyloxyazetidine | 739 mg, yield 100% | C(C1=CC=CC=C1)(=O)NCC=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C15H17N3O4S2
